US03975384
6-Ethoxy-5-formyl-2-methylthio-4-(1-oxido-thiomorpholino)pyrimidine was prepared in analogous manner from 4,6-dichloro-5-dichloromethyl-2-methylthio-pyrimidine, sodium ethylate and thiomorpholine-1-oxide. M.p. 163°C (ethyl acetate/dioxane).

reactant | 4,6-dichloro-5-dichloromethyl-2-methylthio-pyrimidine | ClC1=NC(=NC(=C1C(Cl)Cl)Cl)SC | C6H4Cl4N2S
reactant | sodium ethylate | CC[O-].[Na+]
reactant | thiomorpholine-1-oxide | N1CCS(CC1)=O | C4H9NOS
reactant | ethyl acetate dioxane | C(C)(=O)OCC.O1CCOCC1 | 2C4H8O2
product | 6-Ethoxy-5-formyl-2-methylthio-4-(1-oxido-thiomorpholino)pyrimidine | C(C)OC1=C(C(=NC(=N1)SC)N1CCS(CC1)=O)C=O | C12H17N3O3S2
